US04435406
13.5 g of 7-acetamino-3,4-dihydro-2H-1,5-benzodioxepine were placed in 50 ml of glacial acetic acid and nitrated at 15°-20° C. with 7 ml of nitric acid in 20 ml of glacial acetic acid by dropwise addition, the crystals passing into solution only after the addition of a quarter of the nitric acid. The product separated out, but was stirred for an additional 3 hours, then removed under suction and washed with water and methanol. 15.6 g (94.9% of theory) of 7-acetamino-8-nitro-3,4-dihydro-2H-1,5-benzodioxepine of melting point 139°-140° C. were obtained.

reactant | 7-acetamino-3,4-dihydro-2H-1,5-benzodioxepine | 13.5 g | N(C(=O)C)C1=CC2=C(OCCCO2)C=C1 | C11H13NO3
reactant | nitric acid | 7 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 7-acetamino-8-nitro-3,4-dihydro-2H-1,5-benzodioxepine | 15.6 g, 94.9% | N(C(=O)C)C1=CC2=C(OCCCO2)C=C1[N+](=O)[O-] | C11H12N2O5
